US04794109
(7bc) 2-(tetrazol-1-yl)-acetic acid chloride
1.58 g of 2-(tetrazol-1-yl)-acetic acid are suspended in 27 ml of absolute methylene chloride, and 1.9 ml of 1-chloro-1-dimethylaminoisobutene (CDIB) are added. After stirring for 30 minutes at room temperature, a further 0.5 ml of CDIB is added and stirring is continued for a further 90 minutes. This solution of the acid chloride [IR (methylene chloride): 3.20, 5.57 μm] is further reacted directly.

reactant | 2-(tetrazol-1-yl)-acetic acid | 1.58 g | N1(N=NN=C1)CC(=O)O | C3H4N4O2
reactant | 1-chloro-1-dimethylaminoisobutene | 1.9 ml | ClC(=C(C)C)N(C)C | C6H12ClN
reactant | CDIB | 0.5 ml | ClC(=C(C)C)N(C)C | C6H12ClN
solvent | methylene chloride | 27 ml | C(Cl)Cl | CH2Cl2
product | 2-(tetrazol-1-yl)-acetic acid chloride | N1(N=NN=C1)CC(=O)Cl | C3H3ClN4O
